US05534481
A solution containing 16 g (0.1 mol) of 4-chloro-2-methyl-2H-indazole in 300 ml of ethyl ether, was cooled to -30° C., and 85.4 g (0.2 mol) of n-butyl lithium (15% hexane solution) was dropwise added thereto. The mixture was stirred for one hour at the same temperature. Then, an excess amount of sulfurous acid gas was blown thereinto at a temperature of not higher than -20° C. for 3 hours. After completion of the reaction, the mixture was returned to room temperature and diluted with ethyl ether, and the product was subjected to filtration. Crystals were dried to obtain crude lithium 4-chloro-2-methyl-2H-indazole-3-sulfinate. This product was used for the subsequent reaction without purification.

reactant | 4-chloro-2-methyl-2H-indazole | 0.1 mol, 16 g | ClC=1C2=CN(N=C2C=CC1)C | C8H7ClN2
reactant | n-butyl lithium | 0.2 mol, 85.4 g | C(CCC)[Li]
reactant | sulfurous acid | S(O)(O)=O | H2O3S
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | lithium 4-chloro-2-methyl-2H-indazole-3-sulfinate | ClC=1C2=C(N(N=C2C=CC1)C)S(=O)[O-].[Li+] | InChI=1S/C8H7ClN2O2S.Li/c1-11-8(14(12)13)7-5(9)3-2-4-6(7)10-11;/h2-4H,1H3,(H,12,13);/q;+1/p-1
